US05023259
Preparation of 1-ethyl-3-(pyridin-3-ylmethyl)-4-dimethylamino-5-nitro-1,2,3,6-tetrahydropyrimidine (Table 1, comp. no. 1)
1.6 ml of ethylamine and 2.2 ml of formaldehyde (37% aqueous), dissolved in 30 ml of ethanol, are added to 3.0 g of 1-nitro-2-dimethylamino-2-(N-pyridin-3-ylmethylamino)-ethylene, and the whole is stirred at room temperature for 24 hours. After concentrating the reaction solution by evaporation in a rotary evaporator under a water-jet vacuum, the residue is purified by column chromatography over silica gel. The column is eluted with dichloromethane/10% methanol. After evaporating the solvent in vacuo, the end product, which is obtained in the form of yellowish crystals, is isolated. M.p. 97-98° C.

reactant | ethylamine | 1.6 ml | C(C)N | C2H7N
reactant | formaldehyde | 2.2 ml | C=O | CH2O
reactant | 1-nitro-2-dimethylamino-2-(N-pyridin-3-ylmethylamino)-ethylene | 3.0 g | [N+](=O)([O-])C=C(NCC=1C=NC=CC1)N(C)C | C10H14N4O2
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 1-ethyl-3-(pyridin-3-ylmethyl)-4-dimethylamino-5-nitro-1,2,3,6-tetrahydropyrimidine | C(C)N1CN(C(=C(C1)[N+](=O)[O-])N(C)C)CC=1C=NC=CC1 | C14H21N5O2
